US04265890
Similarly, reaction of 1 g. (0.0075 mole) of p-toluenethiol and 2 g. of the dione in 200 ml. of methanol as described above gave 7,8-dihydroxy-3-methyl-6-(p-tolylthio)-2,3,4,5-tetrahydro-1H-3-benzazepine, m.p. 105°-114° C. and reaction of 1.65 g. (0.0011 mole) of p-nitrothiophenol and 2.3 g. of the dione in 200 ml. of methanol gave 7,8-dihydroxy-3-methyl-6-(p-nitrophenylthio)-2,3,4,5-tetrahydro-1H-3-benzazepine, m.p. 165°-170° C.

reactant | p-toluenethiol | 0.0075 mole | C1(=CC=C(C=C1)S)C | C7H8S
reactant | 7,8-dihydroxy-3-methyl-6-(p-tolylthio)-2,3,4,5-tetrahydro-1H-3-benzazepine | OC1=C(C2=C(CCN(CC2)C)C=C1O)SC1=CC=C(C=C1)C | C18H21NO2S
reactant | p-nitrothiophenol | 0.0011 mole | [N+](=O)([O-])C1=CC=C(C=C1)S | C6H5NO2S
solvent | methanol | CO | CH4O
product | 7,8-dihydroxy-3-methyl-6-(p-nitrophenylthio)-2,3,4,5-tetrahydro-1H-3-benzazepine | OC1=C(C2=C(CCN(CC2)C)C=C1O)SC1=CC=C(C=C1)[N+](=O)[O-] | C17H18N2O4S
